US04746656
1,2,4,7-Tetrahydro-5-methyl-7-(3-nitrophenyl)-2-oxo-1-(phenylmethyl)pyrazolo[1,5-a]pyrimidine-6-carboxylic acid, 1-methylethyl ester
To a suspension of sodium hydride (30 mg; 60% dispersion; 0.75 mmole) in dry dimethylformamide (4 ml) was added 1,2,4,7-tetrahydro-5-methyl-7-(3-nitrophenyl)-2-oxopyrazolo[1,5-a]pyrimidine-6-carboxylic acid, 1-methylethyl ester (180 mg; 0.5 mmole) in dimethylformamide (3 ml) at 0° C. under argon. The orange reaction mixture was allowed to stir at 0° C. for 30 minutes and benzyl bromide (70 μl; 0.6 mmole) was then added. The reaction was stirred at room temperature for one hour and then quenched with water. The resulting solution was extracted with ethyl acetate and the combined extracts were washed with water, sodium bicarbonate and brine. After drying over anhydrous magnesium sulfate, the solvent was evaporated to give a foam which was purified by preparative thin layer chromatography (40% ethyl acetate in hexanes) and the product was crystallized from dichloromethane-isopropyl ether to give a solid, melting point 183.5°-185° C.

reactant | sodium hydride | 0.75 mmole, 30 mg | [H-].[Na+]
reactant | 1,2,4,7-tetrahydro-5-methyl-7-(3-nitrophenyl)-2-oxopyrazolo[1,5-a]pyrimidine-6-carboxylic acid, 1-methylethyl ester | 0.5 mmole, 180 mg | CC=1NC=2N(C(C1C(=O)OC(C)C)C1=CC(=CC=C1)[N+](=O)[O-])NC(C2)=O | C17H18N4O5
reactant | benzyl bromide | 0.6 mmole, 70 μl | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 1,2,4,7-Tetrahydro-5-methyl-7-(3-nitrophenyl)-2-oxo-1-(phenylmethyl)pyrazolo[1,5-a]pyrimidine-6-carboxylic acid, 1-methylethyl ester | CC=1NC=2N(C(C1C(=O)OC(C)C)C1=CC(=CC=C1)[N+](=O)[O-])N(C(C2)=O)CC2=CC=CC=C2 | C24H24N4O5
